US07468371B2
phenyl 3-bromobenzoate
To a solution of phenol (2.3 g, 24.4 mmol) and triethylamine (3.2 g, 32 mmol) in diethyl ether (150 mL) was slowly added 3-bromobenzoyl chloride (5 g, 22.8 mmol) and the mixture was heated to reflux for about 1 hour. The mixture was cooled, filtered, and the filtrate was successively washed with water, 0.2N hydrochloric acid, and saturated aqueous sodium carbonate. The organic layer was dried (MgSO4), filtered, and concentrated under vacuum. The residue was triturated with hexane and dried under vacuum to provide the desired product. 1H NMR (500 MHz, CDCl3) δ 7.22 (m, 3H), 7.42 (m, 3H), 7.79 (d, J=8 Hz, 1H), 8.15 (d, J=8 Hz, 1H), 8.37 (br s, 1H).

reactant | phenol | 24.4 mmol, 2.3 g | C1(=CC=CC=C1)O | C6H6O
reactant | triethylamine | 32 mmol, 3.2 g | C(C)N(CC)CC | C6H15N
reactant | 3-bromobenzoyl chloride | 22.8 mmol, 5 g | BrC=1C=C(C(=O)Cl)C=CC1 | C7H4BrClO
solvent | diethyl ether | 150 mL | C(C)OCC | C4H10O
product | phenyl 3-bromobenzoate | BrC=1C=C(C(=O)OC2=CC=CC=C2)C=CC1 | C13H9BrO2
